US04634713
A mixture of cis-1-(4-[3-(o-allyloxyphenoxy)-2-hydroxypropylamino]-cyclohexyl)-2-imidazolidinone (4.4 g) in 15 ml isopropanol, 37.5% aqueous formaldehyde (0.671 g), and formic acid (2.6 g) is stirred at reflux for 19 hours. The solution is cooled to room temperature, 1 ml concentrated hydrochloric acid is added and the mixture concentrated to dryness. The glassy residue is dissolved in 100 ml of water, made alkaline with excess of 25% aqueous sodium hydroxide and extracted with methylene chloride (1×50 ml, 1×25 ml). The extract is dried, filtered and concentrated to give a residue which is purified by preparative thin layer chromatography on silica gel, using ethyl acetate-methanol-ammonium hydroxide (90:5:5) as the eluent, to yield the cis-1-{4-[3-(o-allyloxyphenoxy)-2-hydroxy-N-methyl-propylamino]cyclohexyl}-2imidazolidinone as an oil. The hydrochloride salt, m.p. 80° dec., is prepared by dissolving 2.3 g of the base in 50 ml ethyl acetate, adding a saturated solution of hydrogen chloride gas in ethyl acetate, and collecting the resulting salt.

reactant | cis-1-(4-[3-(o-allyloxyphenoxy)-2-hydroxypropylamino]-cyclohexyl)-2-imidazolidinone | 4.4 g | C(C=C)OC1=C(OCC(CN[C@H]2CC[C@H](CC2)N2C(NCC2)=O)O)C=CC=C1 | C21H31N3O4
reactant | formaldehyde | 0.671 g | C=O | CH2O
reactant | formic acid | 2.6 g | C(=O)O | CH2O2
reactant | hydrochloric acid | 1 ml | Cl | ClH
solvent | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | cis-1-{4-[3-(o-allyloxyphenoxy)-2-hydroxy-N-methyl-propylamino]cyclohexyl}-2imidazolidinone | C(C=C)OC1=C(OCC(CN(C)[C@H]2CC[C@H](CC2)N2C(NCC2)=O)O)C=CC=C1 | C22H33N3O4
